US09388180B2
3.3 N-(2-methylthiazol-5-yl)acetamide
To a solution of Et3N (1.4 ml, 10 mmol) and 2-methylthiazol-5-amine hydrochloride (1 g, 6.6 mmol) in DCM (30 mL) was added Ac2O (0.94 mL, 10 mmol). The mixture was stirred at room temperature for 3 h. The reaction solution was concentrated, deposited onto silica gel and loaded onto a silica gel column and eluted with EA to give the title compound (0.8 g, yield: 77%).

reactant | Et3N | 10 mmol, 1.4 ml | CCN(CC)CC | C6H15N
reactant | 2-methylthiazol-5-amine hydrochloride | 6.6 mmol, 1 g | Cl.CC=1SC(=CN1)N
reactant | Ac2O | 10 mmol, 0.94 mL | CC(=O)OC(=O)C | C4H6O3
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(2-methylthiazol-5-yl)acetamide | 0.8 g, yield: 77% | CC=1SC(=CN1)NC(C)=O | C6H8N2OS
